US07906645B2
4-{[(2S)-4-Cyclobutylmorpholin-2-yl]methyl}-N-(3,4-dichlorophenyl)piperazine-1-carboxamide
To a stirred solution of N-(3,4-Dichlorophenyl)-4-[(2R)-morpholin-2-ylmethyl]piperazine-1-carboxamide (bis TFA salt) (200 mg) in THF (10 ml) under an argon atmosphere was added MgSO4 (100 mg), cyclobutyl ketone (41 uL), N,N-di-isopropylethylamine (0.34 mL) then NaBH(OAc)3 (155 mg) and the reaction was stirred for 18 h. The solvent was then removed under reduced pressure and dissolved in ethyl acetate (40 ml) and sat. aqueous NaHCO3 (20 ml). The organic layer was separated, dried (MgSO4) and evaporated. Purification by column chromatography 5-20% MeOH:DCM afforded the title compound (99 mg) as a white foam.

reactant | N-(3,4-Dichlorophenyl)-4-[(2R)-morpholin-2-ylmethyl]piperazine-1-carboxamide | 200 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CNCCO1 | C16H22Cl2N4O2
reactant | MgSO4 | 100 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | cyclobutyl ketone | 41 uL | C1(CCC1)C(=O)C1CCC1 | C9H14O
reactant | N,N-di-isopropylethylamine | 0.34 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaBH(OAc)3 | 155 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-{[(2S)-4-Cyclobutylmorpholin-2-yl]methyl}-N-(3,4-dichlorophenyl)piperazine-1-carboxamide | 99 mg | C1(CCC1)N1C[C@@H](OCC1)CN1CCN(CC1)C(=O)NC1=CC(=C(C=C1)Cl)Cl | C20H28Cl2N4O2
